US04920131
A mixture of ethyl 4-carbethoxy-4-(2-methylphenoxy)butyrate (0.05 mol) and NBS (0.055 mol) and 150 mg of benzoyl peroxide in 150 mL of CCl4 is refluxed and shined with a sun lamp for 2 hours. Filtration and evaporation of solvent gives 2-(1,3-dicarbethoxypropoxy)benzyl bromide which is used without purification.

reactant | ethyl 4-carbethoxy-4-(2-methylphenoxy)butyrate | 0.05 mol | C(=O)(OCC)C(CCC(=O)OCC)OC1=C(C=CC=C1)C | C16H22O5
reactant | NBS | 0.055 mol | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 150 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 150 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(1,3-dicarbethoxypropoxy)benzyl bromide | C(=O)(OCC)C(CCC(=O)OCC)OC1=C(CBr)C=CC=C1 | C16H21BrO5
